US05889012
cis-4-(1 -Methylcyclohexyl)cyclohexanol
56.1 g (0.29 mol) of 4-(1-methylcyclohexyl)phenol (from 1-methylcyclohexene and phenol in accordance with Chem. Ber. 57 (1924) 857) in 200 ml of methanol to which 1 ml of concentrated hydrochloric acid had been added were hydrogenated at 50° C. with 150 bar of hydrogen in the presence of 5 g of rhodium (5% on charcoal). After removal of the catalyst by filtration with suction, and concentration, 56.1 g (98.5% of theory) remained of an almost pure cis alcohol as a colorless solid.

reactant | 4-(1-methylcyclohexyl)phenol | 0.29 mol, 56.1 g | CC1(CCCCC1)C1=CC=C(C=C1)O | C13H18O
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | rhodium | 5 g | [Rh] | Rh
product | cis-4-(1 -Methylcyclohexyl)cyclohexanol | CC1(CCCCC1)[C@H]1CC[C@H](CC1)O | C13H24O
